datasets/10k_Mayr_OG.csv
SMILES Labelled
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10]2([C:11](C)=[O:12])CCC[O:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.C1C[N:72]([C:61]([S-:10])=[S:62])CCO1>>C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH:20]([S:10][C:61](=[S:62])[N:72]3CCOCC3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1 10,11=10,20"
"CC[O:62]/[C:11](=[C:10](\OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CC[O:62][C:11]([C:10](OC)([CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C[S:61]([NH-:10])(=[O:62])=[O:63].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[S:61]([NH:10][S:20]C(F)(F)F)(=[O:62])=[O:63] 10=20;20,21=21,22;22,23=23"
CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:72]=[CH:73]1 10=20
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"C1C[CH:10]=[CH:11]C1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([CH:10]1CCC[CH+:11]1)[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CC[Si:63](CC)(CC)[CH2:62][CH:11]=[CH2:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[Si:63](CC)(CC)[CH2:62][CH+:11][CH2:10][CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[CH2:10]=[CH:11][CH:62]=[CH2:63]>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][CH+:11][CH:62]=[CH2:63])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1CC[C:21](=[O:20])C1.C1C[C:61](=[O:62])[N:10]=[C:11]1[O-:12]>>C1CC[C-:21]([O:20][N:10]2[C:11](=[O:12])CC[C:61]2=[O:62])C1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC1=CC=[C:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)O1.C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2 10,11=10,20;20,21=21,22;22,23=23"
FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72]>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62].COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1>>CC[O:82][C:61]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(OC)C=C1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23,24;24,25=25"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81](C)=[O:82])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
